US06552069B1
Ethyl 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoate (0.38 g, 0.53 mmol) and sodium hydroxide (170 mg, 4.2 mmol) were added to an ethanol/water mixture (2:1, 15 ml), followed by heating under reflux for 4 hours. After the reaction mixture was neutralized with 1N hydrochloric acid, the solvent was distilled off and the resulting residue was diluted with water, adjusted to pH 2-3 with 1N hydrochloric acid, and then extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4) to give 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoic acid (260 mg, Yield 87%) as a colorless foam.

reactant | Ethyl 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoate | 0.53 mmol, 0.38 g | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)OCC)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C34H41F9O4S
reactant | sodium hydroxide | 4.2 mmol, 170 mg | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol water | 15 ml | C(C)O.O
product | 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoic acid | 260 mg, Yield 87% | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C32H37F9O4S
